US08604019B2
2-Chloro-6-methylthieno[3,2-d]pyrimidin-4(3H)-one (3.01 g, 15 mmol) was dissolved in toluene (50 mL), followed by addition of 6,7,8,9-tetrahydro-5-thia-8-aza-benzocycloheptene-5-oxide (3.39 g, 18.7 mmol), triethylamine (6 mL, 43 mmol). Then the solution was heated to reflux overnight. The suspension was filtrated and the solid was washed by methanol to afford 4.2 g of 2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4(3H)-one (yield was 81.1%) as a slight brown solid. MS obsd. (ESI+) [(M+H)+] 346.

reactant | 2-Chloro-6-methylthieno[3,2-d]pyrimidin-4(3H)-one | 15 mmol, 3.01 g | ClC=1NC(C2=C(N1)C=C(S2)C)=O | C7H5ClN2OS
reactant | 6,7,8,9-tetrahydro-5-thia-8-aza-benzocycloheptene-5-oxide | 18.7 mmol, 3.39 g | C1=CC=CC2=C1CNCCS2=O | C9H11NOS
reactant | triethylamine | 43 mmol, 6 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4(3H)-one | 4.2 g, yield was 81.1% | O=S1CCN(CC2=C1C=CC=C2)C=2NC(C1=C(N2)C=C(S1)C)=O | C16H15N3O2S2
